2178-12-03 05:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Able to decrease oxygen from NRB to 4 L NC with sats of 99%
   -Required large amounts of fluid for resuscitation overnight
   -On AM rounds patient noted to be 92 on 4 L and tachypneic to the 40s,
   with increased work of breathing.  Started on NRB and sats improved
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Vancomycin - [**2178-12-2**] 09:30 PM
   Azithromycin - [**2178-12-2**] 10:30 PM
   Ceftazidime - [**2178-12-3**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-12-2**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-3**] 05:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.9
C (96.7
   HR: 98 (87 - 112) bpm
   BP: 97/43(54) {83/35(50) - 106/55(63)} mmHg
   RR: 29 (27 - 40) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  3,510 mL
                                                                  2,219 mL
   PO:
             60 mL
   TF:
   IVF:
                                                                  3,510 mL
                                                                  2,159 mL
   Blood products:
   Total out:
                                                                  1,160 mL
                                                                    580 mL
   Urine:
                                                                  1,160 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,350 mL
                                                                  1,640 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.39/35/99.[**Numeric Identifier 299**]/19/-2
   Physical Examination
   General Pleasant middle aged woman tachypneic in mild respiratory
   distress
   HEENT sclera white conjunctiva pink mmm
   neck no jvd
   cv regular s1 s2 no m/r/g
   pulm lungs with coarse bs right base +egophony +dull
   abd soft nontender +bowel sounds
   extrem warm no edema +palpable distal pulses
   neuro alert and awake
   derm mild facial flushing
   Labs / Radiology
   218 K/uL
   10.0 g/dL
   100 mg/dL
   0.5 mg/dL
   19 mEq/L
   3.0 mEq/L
   14 mg/dL
   114 mEq/L
   141 mEq/L
   28.8 %
   5.9 K/uL
        [image002.jpg]
                             [**2178-12-2**]  04:42 PM
                             [**2178-12-2**]  07:06 PM
                             [**2178-12-3**]  03:11 AM
   WBC
   5.9
   Hct
   28.8
   Plt
   218
   Cr
   0.5
   TCO2
   22
   22
   Glucose
   100
   Other labs: Lactic Acid:2.4 mmol/L, Ca++:7.4 mg/dL, Mg++:1.5 mg/dL,
   PO4:2.1 mg/dL
   Assessment and Plan
   A/P: 55 YOF otherwise healthy c/o malaise and cough for 1 week whick
   likely represents pneumonia.
   #Tachypnea/desaturations-likely represent infectious etiology, question
   is if initially viral syndrome with bacterial superinfection in which
   case we need to treat for Staph, versus primary bacterial.
   -sputum cultures
   -f/u CXR
   -ABG
   -Vanc/Ceftaz/Azithro-Day 1=[**2177-12-1**]
   -Continue to monitor closely for increased work of breathing, with low
   threshold to progress to respiratory aids or intubation
   -Attempt Arterial line, consider central line
   -Repeat ABG
   .
   #Hypotension-could possibly represent her baseline, but in setting of
   infection, may need fluid resuscitation for possible sepsis.
   -IVF PRN to keep BP >90
   -Consider placing central line for access and adding pressors as
   needed.
   -Holding spironolactone in setting of low blood pressures
   .
   #Depression
   -Continue Geodon, Prozac
   -Restart Ritalin in AM
   .
   FEN: NPO, IVF: D5
 NS, Replete lytes
   Prophy: Heparin SQ
   Access: 2 PIV
   Code: presumed full
   Communication: with patient
 PNEUMONIA, OTHER
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-12-2**] 05:30 PM
   20 Gauge - [**2178-12-2**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-12-04 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.3
F - [**2178-12-4**] 05:00 AM
   Pan cultured
   Tolerated Shovel mask 100% o/n.
   Reports that her breathing remains improved but she does have a
   non-productive cough.  She denies fatigue from breathing.
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Levofloxacin - [**2178-12-3**] 08:00 AM
   Vancomycin - [**2178-12-3**] 08:10 PM
   Azithromycin - [**2178-12-3**] 10:24 PM
   Ceftazidime - [**2178-12-4**] 12:35 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-4**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.5
C (101.3
   HR: 111 (84 - 115) bpm
   BP: 93/58(73) {93/58(73) - 129/105(356)} mmHg
   RR: 43 (26 - 48) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  4,910 mL
                                                                    176 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  4,790 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  1,860 mL
                                                                    300 mL
   Urine:
                                                                  1,860 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,050 mL
                                                                   -124 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 549 (549 - 551) mL
   PS : 12 cmH2O
   RR (Spontaneous): 46
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 17 cmH2O
   SpO2: 93%
   ABG: 7.37/36/172/21/-3
   Ve: 24.6 L/min
   PaO2 / FiO2: 344
   Physical Examination
   General: Pleasant middle aged woman tachypneic in mild respiratory
   distress
   HEENT: sclera white conjunctiva pink mmm
   Neck: No JVD
   CV: S1 & S2 regular without murmur
   Pulm: bronchial breath sounds RLL, wheezes at bases.
   Abd: soft nontender with present bowel sounds
   Ext: Warm no edema +palpable distal pulses
   Neuro alert and awake
   Derm mild facial flushing
   Labs / Radiology
   267 K/uL
   9.5 g/dL
   85 mg/dL
   0.5 mg/dL
   21 mEq/L
   3.7 mEq/L
   13 mg/dL
   109 mEq/L
   137 mEq/L
   26.7 %
   9.7 K/uL
        [image002.jpg]
                             [**2178-12-2**]  04:42 PM
                             [**2178-12-2**]  07:06 PM
                             [**2178-12-3**]  03:11 AM
                             [**2178-12-3**]  07:45 AM
                             [**2178-12-3**]  12:11 PM
                             [**2178-12-3**]  02:28 PM
                             [**2178-12-3**]  03:15 PM
                             [**2178-12-4**]  02:51 AM
   WBC
   5.9
   9.7
   Hct
   28.8
   26.7
   Plt
   218
   267
   Cr
   0.5
   0.5
   0.5
   TCO2
   22
   22
   18
   21
   22
   Glucose
   100
   132
   85
   Other labs: PT / PTT / INR:12.9/23.7/1.1, Differential-Neuts:60.0 %,
   Band:22.0 %, Lymph:9.0 %, Mono:1.0 %, Eos:5.0 %, Lactic Acid:2.2
   mmol/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Imaging: None
   Microbiology: Legonella Antigen (-)
   BCx Pending
   Assessment and Plan
   55 YOF otherwise healthy c/o malaise and cough for 1 week whick likely
   represents pneumonia.
   #Tachypnea/desaturations-likely represent infectious etiology, question
   is if initially viral syndrome with bacterial superinfection in which
   case we need to treat for Staph, versus primary bacterial.  Patient
   also febrile o/n
   -Blood, urine & sputum cultures
   -Vanc/Ceftaz/Azithro-Day 1=[**2177-12-1**]
   -Continue to monitor closely for increased work of breathing, with low
   threshold to progress to respiratory aids
   #Hypotension-could possibly represent her baseline, but in setting of
   infection, may need fluid resuscitation for possible sepsis.
   -IVF PRN to keep BP >90
   -Consider placing central line for access and adding pressors as
   needed.
   -Holding spironolactone in setting of low blood pressures
   #Depression
   -Continue Geodon, Prozac
   -Restart Ritalin in AM
   FEN: Regular Diet, Replete lytes
   Prophy: Heparin SQ
   Access: 1 PIV
   Code: presumed full
   Communication: with patient
   Dispo: MICU, possible callout later
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-12-3**] 06:00 PM
   20 Gauge - [**2178-12-3**] 09:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-12-05 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2178-12-4**]
   - Had episodes of desaturations overnight with any movement.
   - Changed guaifenesin to standing given patient unable to cough up
   secretions
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Levofloxacin - [**2178-12-3**] 08:00 AM
   Vancomycin - [**2178-12-4**] 08:00 PM
   Azithromycin - [**2178-12-5**] 12:00 AM
   Ceftazidime - [**2178-12-5**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-12-4**] 07:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-5**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.7
C (99.8
   HR: 94 (79 - 106) bpm
   BP: 93/56(69) {64/47(54) - 157/140(145)} mmHg
   RR: 34 (24 - 45) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,040 mL
                                                                  1,139 mL
   PO:
                                                                  1,100 mL
                                                                    720 mL
   TF:
   IVF:
                                                                    940 mL
                                                                    419 mL
   Blood products:
   Total out:
                                                                  1,910 mL
                                                                  1,020 mL
   Urine:
                                                                  1,910 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    130 mL
                                                                    119 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   General: Pleasant middle aged woman tachypneic and diaphoretic
   HEENT: sclera white conjunctiva pink mmm
   Neck: No JVD
   CV: S1 & S2 regular without murmur
   Pulm: bronchial breath sounds RLL, wheezes at bases.
   Abd: soft nontender with present bowel sounds
   Ext: Warm no edema +palpable distal pulses
   Neuro alert and awake
   Derm mild facial flushing
   Labs / Radiology
   265 K/uL
   9.8 g/dL
   111 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.0 mEq/L
   14 mg/dL
   103 mEq/L
   136 mEq/L
   27.4 %
   14.8 K/uL
        [image002.jpg]
                             [**2178-12-2**]  04:42 PM
                             [**2178-12-2**]  07:06 PM
                             [**2178-12-3**]  03:11 AM
                             [**2178-12-3**]  07:45 AM
                             [**2178-12-3**]  12:11 PM
                             [**2178-12-3**]  02:28 PM
                             [**2178-12-3**]  03:15 PM
                             [**2178-12-4**]  02:51 AM
                             [**2178-12-5**]  04:08 AM
   WBC
   5.9
   9.7
   14.8
   Hct
   28.8
   26.7
   27.4
   Plt
   [**Telephone/Fax (3) 4106**]
   Cr
   0.5
   0.5
   0.5
   0.5
   TCO2
   22
   22
   18
   21
   22
   Glucose
   100
   132
   85
   111
   Other labs: PT / PTT / INR:12.9/24.9/1.1, Differential-Neuts:60.0 %,
   Band:22.0 %, Lymph:9.0 %, Mono:1.0 %, Eos:5.0 %, Lactic Acid:2.2
   mmol/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   55 YOF otherwise healthy c/o malaise and cough for 1 week likely
   represents pneumonia.
   #Bilateral Pneumonia:  Likely bacterial suprainfection following viral
   illness.  Continue to treat for Staph and atypical bacteria.
   - Follow blood, urine & sputum cultures
   -Vanc/Ceftaz/Azithro-Day 1=[**2177-12-1**], will plan wean down antibiotics
   likely to vanc and azithromycin
   -Continue to monitor closely for increased work of breathing, with low
   threshold to progress to respiratory aids
   - Will put in for midline today for prolonged antibiotic course, will
   need 2 week course
   - Guaifenesin and chest PT for expectoration
   #Hypotension:  Resolved, episodes documented by a line are not reliable
   given not correlating with non-invasive.
   -IVF PRN to keep BP >90
   -Holding spironolactone in setting of low blood pressures
   #Depression
   -Continue Geodon, Prozac and Ritalin
   FEN: Regular Diet, Replete lytes
   Prophy: Heparin SQ
   Access: 1 PIV
   Code: presumed full
   Communication: with patient
   Dispo: MICU, possible callout later today if does well
 PNEUMONIA, OTHER
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-12-3**] 06:00 PM
   20 Gauge - [**2178-12-4**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-12-05 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Had episodes of desaturations overnight with any movement.
   - Changed guaifenesin to standing given patient unable to cough up
   secretions
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Levofloxacin - [**2178-12-3**] 08:00 AM
   Vancomycin - [**2178-12-4**] 08:00 PM
   Azithromycin - [**2178-12-5**] 12:00 AM
   Ceftazidime - [**2178-12-5**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-12-4**] 07:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-5**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.7
C (99.8
   HR: 94 (79 - 106) bpm
   BP: 93/56(69) {64/47(54) - 157/140(145)} mmHg
   RR: 34 (24 - 45) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,040 mL
                                                                  1,140 mL
   PO:
                                                                  1,100 mL
                                                                    720 mL
   TF:
   IVF:
                                                                    940 mL
                                                                    420 mL
   Blood products:
   Total out:
                                                                  1,910 mL
                                                                  1,020 mL
   Urine:
                                                                  1,910 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    130 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   265 K/uL
   9.8 g/dL
   111 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.0 mEq/L
   14 mg/dL
   103 mEq/L
   136 mEq/L
   27.4 %
   14.8 K/uL
        [image002.jpg]
                             [**2178-12-2**]  04:42 PM
                             [**2178-12-2**]  07:06 PM
                             [**2178-12-3**]  03:11 AM
                             [**2178-12-3**]  07:45 AM
                             [**2178-12-3**]  12:11 PM
                             [**2178-12-3**]  02:28 PM
                             [**2178-12-3**]  03:15 PM
                             [**2178-12-4**]  02:51 AM
                             [**2178-12-5**]  04:08 AM
   WBC
   5.9
   9.7
   14.8
   Hct
   28.8
   26.7
   27.4
   Plt
   [**Telephone/Fax (3) 4106**]
   Cr
   0.5
   0.5
   0.5
   0.5
   TCO2
   22
   22
   18
   21
   22
   Glucose
   100
   132
   85
   111
   Other labs: PT / PTT / INR:12.9/24.9/1.1, Differential-Neuts:60.0 %,
   Band:22.0 %, Lymph:9.0 %, Mono:1.0 %, Eos:5.0 %, Lactic Acid:2.2
   mmol/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 PNEUMONIA, OTHER
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-12-3**] 06:00 PM
   20 Gauge - [**2178-12-4**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-12-06 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2178-12-5**] 04:00 PM
 INVASIVE VENTILATION - START [**2178-12-5**] 04:20 PM
 MULTI LUMEN - START [**2178-12-5**] 11:06 PM
 ARTERIAL LINE - STOP [**2178-12-6**] 12:00 AM
 URINE CULTURE - At [**2178-12-6**] 12:00 AM
   sent w/urine lytes
 ARTERIAL LINE - START [**2178-12-6**] 12:01 AM
 FEVER - 101.9
F - [**2178-12-5**] 08:00 PM
   -Blood grew H. flu
   -ID consulted, rec: d/c [**Doctor Last Name **], cont ceftaz, azithro, sputum cx, viral
   wash, CT sinus/chest,
   -Anemia work up: SPEP/UPEP, B12, folate, iron
   -PM lytes-K replacement
   -Chest PT
   -Midline requested
   -Intubated at 1600 for increased work of breathing-patient c/o feeling
   tired-tachypneic to 60s, frequent desats <90
   -CT chest and sinus-final read pending
   -R IJ placed overnight
   -CVP (7) overnight given 2 L NS, pressures increased
   -Febrile overnight, improved with tylenol
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Azithromycin - [**2178-12-5**] 10:00 PM
   Ceftazidime - [**2178-12-6**] 12:33 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2178-12-5**] 04:44 PM
   Pantoprazole (Protonix) - [**2178-12-5**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2178-12-6**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-6**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.6
C (99.6
   HR: 102 (67 - 112) bpm
   BP: 110/46(64) {67/39(50) - 134/108(113)} mmHg
   RR: 26 (16 - 48) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
    CVP: 8 (6 - 10)mmHg
   Total In:
                                                                  3,675 mL
                                                                  3,506 mL
   PO:
                                                                  1,340 mL
   TF:
   IVF:
                                                                  2,295 mL
                                                                  3,326 mL
   Blood products:
   Total out:
                                                                  2,185 mL
                                                                    490 mL
   Urine:
                                                                  2,185 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,490 mL
                                                                  3,016 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: 7.40/42/62/25/0
   Ve: 11.8 L/min
   PaO2 / FiO2: 103
   Physical Examination
   General: Intubated & sedated
   HEENT: sclera white conjunctiva pink mmm
   Neck: JVP difficult to assess secondary to RIJ placement
   CV: S1 & S2 regular without murmur
   Pulm: Rhonchi throughout
   Abd: soft nontender with present bowel sounds
   Ext: Warm, generalized edema +palpable distal pulses
   Neuro: Sedated
   Labs / Radiology
   198 K/uL
   8.5 g/dL
   98 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.2 mEq/L
   14 mg/dL
   110 mEq/L
   140 mEq/L
   24.7 %
   16.2 K/uL
        [image002.jpg]
                             [**2178-12-3**]  03:15 PM
                             [**2178-12-4**]  02:51 AM
                             [**2178-12-5**]  04:08 AM
                             [**2178-12-5**]  05:15 PM
                             [**2178-12-5**]  06:06 PM
                             [**2178-12-5**]  08:43 PM
                             [**2178-12-6**]  12:21 AM
                             [**2178-12-6**]  04:15 AM
                             [**2178-12-6**]  04:28 AM
                             [**2178-12-6**]  06:17 AM
   WBC
   9.7
   14.8
   16.2
   Hct
   26.7
   27.4
   24.7
   Plt
   [**Telephone/Fax (3) 4122**]
   Cr
   0.5
   0.5
   0.5
   0.4
   TCO2
   22
   28
   32
   29
   22
   27
   Glucose
   85
   111
   117
   98
   Other labs: PT / PTT / INR:12.9/24.9/1.1, Differential-Neuts:89.1 %,
   Band:22.0 %, Lymph:7.6 %, Mono:2.1 %, Eos:1.2 %, Lactic Acid:2.2
   mmol/L, Ca++:7.1 mg/dL, Mg++:2.3 mg/dL, PO4:2.3 mg/dL
   Imaging: CXR: Diffuse Opacity L>R
   CT Chest & Sinus: Official Read Pending, Chest: Significant effusion +
   intraparenchymal consolidations Bilaterally
   Microbiology: GRAM STAIN (Final [**2178-12-6**]):
         [**9-12**] PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   Rapid Respiratory Viral Antigen Test (Final [**2178-12-5**]):
         Respiratory viral antigens not detected.
         SPECIMEN SCREENED FOR: ADENO,PARAINFLUENZA 1,2,3 INFLUENZA A,B
   AND
         RSV.
   [**2178-12-2**] BCx:
   HAEMOPHILUS SP.    BETA LACTAMASE NEGATIVE.
   Assessment and Plan
   55 YOF otherwise healthy c/o malaise and cough for 1 week now has H.
   Flu + bacteremia and continuing respiratory failure.
   #ARDS/Hypoxic Respiratory failure: H. Flu PNA +/- effusions/edema.
   Likely bacterial suprainfection following viral illness.  Now intubated
   and sedated for fatigue/increased work of breathing.
   - Appreciate ID Consults
   - Ceftaz/Azithro per ID Day 1=[**2177-12-1**]
   - Fluid resuscitate to allow for greater sedation
   - Once sedated, increase PEEP to 15 as tolerated
   - Decrease tidal volumes ~320x24
   #Hypotension:  Bolus 4L o/n, now stable with new A-line in place.
   -LR for hyperchloremic hypotension to keep SBP >90
   -Holding spironolactone in setting of low blood pressures
   -Lactate
   - TTE pending
   #Depression
   -Hold Geodon, Prozac and Ritalin while sedated
   FEN: Regular Diet, Replete lytes
   Prophy: Heparin SQ
   Access: 1 PIV, RIJ, a-line
   Code: presumed full
   Communication: with patient
   Dispo: MICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2178-12-5**] 06:08 PM
   Multi Lumen - [**2178-12-5**] 11:06 PM
   Arterial Line - [**2178-12-6**] 12:01 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-12-07 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.9
F - [**2178-12-6**] 08:00 AM
   [**2178-12-6**]:
   - Started on Levophed to allow for greater sedation, Increased PEEP
   - Tube feeds started
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Vancomycin - [**2178-12-5**] 09:12 AM
   Azithromycin - [**2178-12-6**] 10:24 PM
   Ceftazidime - [**2178-12-7**] 12:23 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-12-7**] 12:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-7**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.2
C (98.9
   HR: 90 (79 - 103) bpm
   BP: 120/53(76) {72/39(53) - 120/56(79)} mmHg
   RR: 17 (14 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 13 (3 - 17)mmHg
   Total In:
                                                                  8,874 mL
                                                                    743 mL
   PO:
   TF:
                                                                    205 mL
                                                                    177 mL
   IVF:
                                                                  8,254 mL
                                                                    466 mL
   Blood products:
   Total out:
                                                                  1,119 mL
                                                                    280 mL
   Urine:
                                                                  1,119 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,755 mL
                                                                    463 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 360) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.37/46/95.[**Numeric Identifier 253**]/26/0
   Ve: 9.9 L/min
   PaO2 / FiO2: 192
   Physical Examination
   General: Intubated & sedated
   HEENT: sclera white conjunctiva pink mmm
   Neck: JVP difficult to assess secondary to RIJ placement
   CV: S1 & S2 regular without murmur
   Pulm: Rhonchi throughout
   Abd: soft nontender with present bowel sounds
   Ext: Warm, generalized edema +palpable distal pulses
   Neuro: Sedated
   Labs / Radiology
   359 K/uL
   8.8 g/dL
   132 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.6 mEq/L
   13 mg/dL
   105 mEq/L
   138 mEq/L
   25.9 %
   27.5 K/uL
        [image002.jpg]
                             [**2178-12-6**]  04:15 AM
                             [**2178-12-6**]  04:28 AM
                             [**2178-12-6**]  06:17 AM
                             [**2178-12-6**]  07:56 AM
                             [**2178-12-6**]  09:24 AM
                             [**2178-12-6**]  11:16 AM
                             [**2178-12-6**]  05:11 PM
                             [**2178-12-6**]  06:17 PM
                             [**2178-12-7**]  01:00 AM
                             [**2178-12-7**]  02:31 AM
   WBC
   16.2
   27.5
   Hct
   24.7
   25.9
   Plt
   198
   359
   Cr
   0.4
   0.4
   TCO2
   22
   27
   28
   26
   28
   29
   29
   28
   Glucose
   98
   132
   Other labs: PT / PTT / INR:12.9/24.9/1.1, Differential-Neuts:91.7 %,
   Band:22.0 %, Lymph:6.1 %, Mono:0.7 %, Eos:1.5 %, Lactic Acid:1.3
   mmol/L, Ca++:7.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   55 YOF otherwise healthy c/o malaise and cough for 1 week now has H.
   Flu + bacteremia and continuing respiratory failure.
   #ARDS/Hypoxic Respiratory failure: H. Flu PNA +/- effusions/edema.
   Likely bacterial suprainfection following viral illness.  Now intubated
   and sedated for fatigue/increased work of breathing.
   - Appreciate ID recommendations
   - Ceftaz/Azithro per ID Day 1=[**2177-12-1**], however patient continues to
   grow GNR
s in sputum and continues to have fevers, will follow
   sensitivities, but may need to broaden antibiotic coverage and/or tap
   effusions
   - Will check for other source of infection, follow pan culture, check
   amylase and lipase, add on a diff to rule out drug fever
   - CT scan showed signs of sinusitis, will start afrin today
   - Fluid resuscitate to allow for greater sedation
   - Currently on low tidal volumes with elevated PEEP per ARDS net, will
   switch to PSV today to attempt to have better vent compliance, may be
   able to come down on sedation and thus pressors
   #Hypotension:  IVF resuscitation yesterday, required levophed initation
   overnight for increased sedation for better vent compliance,  stable on
   pressors with new A-line in place.
   -LR for hyperchloremic hypotension to keep SBP >90
   -Holding spironolactone in setting of low blood pressures
   -Lactate has been within normal limits
   - TTE pending
   #Depression
   -Hold Geodon, Prozac and Ritalin while sedated
   FEN: Tube feeds, Replete lytes as needed
   Prophy: Heparin SQ
   Access: 1 PIV, RIJ, a-line
   Code: Full Code
   Communication: with patient
   Dispo: MICU
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 ALTERATION IN NUTRITION
 PNEUMONIA, OTHER
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2178-12-7**] 01:25 AM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2178-12-5**] 06:08 PM
   Multi Lumen - [**2178-12-5**] 11:06 PM
   Arterial Line - [**2178-12-6**] 12:01 AM
   Prophylaxis:
   DVT:  Heparin SC TID
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  Stay in MICU

2178-12-08 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Increased requirement of pressors yesterday but this morning able to
   wean off entirely and normotensive, decreased PEEP yesterday.  This AM
   desaturated and required increased FiO2 to 80%
   - Able to wean sedation some
   - Increased ceftazidime to 2gm Q8H per ID
   - Continues to spike, added back Vancomycin per ID
   -
 PAN CULTURE - At [**2178-12-7**] 10:15 AM
 FEVER - 102.2
F - [**2178-12-7**] 08:00 AM
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Vancomycin - [**2178-12-5**] 09:12 AM
   Ceftazidime - [**2178-12-7**] 06:00 PM
   Azithromycin - [**2178-12-7**] 10:00 PM
   Infusions:
   Fentanyl - 12.5 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-12-7**] 06:00 PM
   Pantoprazole (Protonix) - [**2178-12-7**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-8**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.8
C (100.1
   HR: 93 (82 - 103) bpm
   BP: 114/58(78) {87/47(64) - 120/60(80)} mmHg
   RR: 24 (17 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 12 (5 - 12)mmHg
   Mixed Venous O2% Sat: 80 - 80
   Total In:
                                                                  2,457 mL
                                                                    406 mL
   PO:
   TF:
                                                                    695 mL
                                                                    207 mL
   IVF:
                                                                  1,452 mL
                                                                    199 mL
   Blood products:
   Total out:
                                                                  1,215 mL
                                                                    350 mL
   Urine:
                                                                  1,215 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,242 mL
                                                                     56 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 459 (399 - 523) mL
   PS : 4 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 17 cmH2O
   SpO2: 93%
   ABG: 7.42/48/87.[**Numeric Identifier 7**]/27/5
   Ve: 10.8 L/min
   PaO2 / FiO2: 176
   Physical Examination
   General: Intubated & sedated
   HEENT: sclera white conjunctiva pink mmm
   Neck: JVP difficult to assess secondary to RIJ placement
   CV: S1 & S2 regular without murmur
   Pulm: Rhonchi throughout
   Abd: soft nontender with present bowel sounds
   Ext: Warm, generalized edema +palpable distal pulses
   Neuro: Sedated
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   430 K/uL
   8.0 g/dL
   124 mg/dL
   0.3 mg/dL
   27 mEq/L
   3.2 mEq/L
   12 mg/dL
   111 mEq/L
   141 mEq/L
   24.0 %
   23.6 K/uL
        [image002.jpg]
                             [**2178-12-6**]  07:56 AM
                             [**2178-12-6**]  09:24 AM
                             [**2178-12-6**]  11:16 AM
                             [**2178-12-6**]  05:11 PM
                             [**2178-12-6**]  06:17 PM
                             [**2178-12-7**]  01:00 AM
                             [**2178-12-7**]  02:31 AM
                             [**2178-12-7**]  03:08 PM
                             [**2178-12-7**]  06:05 PM
                             [**2178-12-8**]  03:40 AM
   WBC
   27.5
   23.6
   Hct
   25.9
   24.0
   Plt
   359
   430
   Cr
   0.4
   0.3
   TCO2
   28
   26
   28
   29
   29
   28
   31
   32
   Glucose
   132
   124
   Other labs: PT / PTT / INR:12.9/24.9/1.1, ALT / AST:30/34, Alk Phos / T
   Bili:219/0.5, Amylase / Lipase:26/10, Differential-Neuts:91.7 %,
   Band:22.0 %, Lymph:6.1 %, Mono:0.7 %, Eos:1.5 %, Lactic Acid:1.4
   mmol/L, LDH:331 IU/L, Ca++:6.5 mg/dL, Mg++:1.5 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   55 YOF otherwise healthy c/o malaise and cough for 1 week now has H.
   Flu + bacteremia and continuing respiratory failure.
   #ARDS/Hypoxic Respiratory failure: H. Flu PNA +/- effusions/edema.
   Likely bacterial suprainfection following viral illness.  Now intubated
   and sedated for fatigue/increased work of breathing.
   - Appreciate ID recommendations
   - Ceftaz/Azithro per ID Day 1=[**2177-12-1**], increased Ceftaz to 2 gm on
   [**12-7**], however patient continues to grow GNR
s in sputum, persistent
   fevers so added vanc per ID Day 1=[**2177-12-6**]
   - Will check for other source of infection, follow pan culture
   - CT scan showed signs of sinusitis, started afrin yesterday
   - Fluid resuscitate to allow for greater sedation
   - Currently on CMV, will attempt to ventilate at ardsnet if patient
   tolerates it
   - Will repeat CXR, if able to see evidence for plug or something to
   cause acute decompensation, then will stop.  If not, will consider
   thoracentesis to tap effusion vs. lasix gtt titrated to BP to attempt
   diuresis 1-2 L today.
   #Hypotension:  IVF resuscitation yesterday, required levophed initation
   overnight for increased sedation for better vent compliance,  stable
   off pressors
   -LR for hyperchloremic hypotension to keep SBP >90
   -Holding spironolactone in setting of low blood pressures
   -Lactate has been within normal limits
   - TTE pending-f/u on results
   #Depression
   -Hold Geodon, Prozac and Ritalin while sedated
   FEN: Tube feeds, Replete lytes as needed
   Prophy: Heparin SQ
   Access: 1 PIV, RIJ, a-line
   Code: Full Code
   Communication: with patient
   Dispo: MICU
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 ALTERATION IN NUTRITION
 PNEUMONIA, OTHER
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2178-12-8**] 03:15 AM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2178-12-5**] 06:08 PM
   Multi Lumen - [**2178-12-5**] 11:06 PM
   Arterial Line - [**2178-12-6**] 12:01 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-12-08 10:52:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 yo women with H. influenza PNA, c/b ARDS.  Initially did well
   without intubation, but subseqently intubated.  Has required pressors
   recently increased pressor dose and has had continued fevers.  Levo
   weaned off this am, but desaturated this AM, so FiO2 increased to 80%.
   24 Hour Events:
 PAN CULTURE - At [**2178-12-7**] 10:15 AM
 FEVER - 102.2
F - [**2178-12-7**] 08:00 AM
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Azithromycin - [**2178-12-7**] 10:00 PM
   Ceftazidime - [**2178-12-8**] 09:00 AM
   Infusions:
   Fentanyl - 12.5 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-12-7**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2178-12-8**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-8**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.8
C (101.8
   HR: 97 (82 - 103) bpm
   BP: 106/54(73) {92/47(66) - 120/60(80)} mmHg
   RR: 27 (17 - 29) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 6 (5 - 12)mmHg
   Mixed Venous O2% Sat: 80 - 80
                                Total In:
                                                                  2,457 mL
                                                                    801 mL
   PO:
                                TF:
                                                                    695 mL
                                                                    319 mL
   IVF:
                                                                  1,452 mL
                                                                    373 mL
   Blood products:
   Total out:
                                                                  1,215 mL
                                                                    560 mL
   Urine:
                                                                  1,215 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,242 mL
                                                                    241 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 459 (399 - 523) mL
   PS : 4 cmH2O
   RR (Set): 24
   RR (Spontaneous): 4
   PEEP: 10 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 17 cmH2O
   SpO2: 91%
   ABG: 7.44/51/128/27/9
   Ve: 12.6 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l left greater than
   left)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   430 K/uL
   124 mg/dL
   0.3 mg/dL
   27 mEq/L
   3.2 mEq/L
   12 mg/dL
   111 mEq/L
   141 mEq/L
   24.0 %
   23.6 K/uL
        [image002.jpg]
                             [**2178-12-6**]  11:16 AM
                             [**2178-12-6**]  05:11 PM
                             [**2178-12-6**]  06:17 PM
                             [**2178-12-7**]  01:00 AM
                             [**2178-12-7**]  02:31 AM
                             [**2178-12-7**]  03:08 PM
                             [**2178-12-7**]  06:05 PM
                             [**2178-12-8**]  03:40 AM
                             [**2178-12-8**]  07:45 AM
                             [**2178-12-8**]  09:33 AM
   WBC
   27.5
   23.6
   Hct
   25.9
   24.0
   Plt
   359
   430
   Cr
   0.4
   0.3
   TCO2
   28
   29
   29
   28
   31
   32
   34
   36
   Glucose
   132
   124
   Other labs: PT / PTT / INR:12.9/24.9/1.1, ALT / AST:30/34, Alk Phos / T
   Bili:219/0.5, Amylase / Lipase:26/10, Differential-Neuts:91.7 %,
   Band:22.0 %, Lymph:6.1 %, Mono:0.7 %, Eos:1.5 %, Lactic Acid:1.6
   mmol/L, LDH:331 IU/L, Ca++:6.5 mg/dL, Mg++:1.5 mg/dL, PO4:1.9 mg/dL
   Microbiology: sputum and blood previously with H. influenza
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**]):
   Desaturated today, unclear reason.  Will get CXR.  [**Month (only) 8**] have derecruited
   consider increase PEEP and
   start to diurese if unchanged CXR
 after reviewing CXR
 shows
   increased b/l consolidation
 will increase PEEP and diurese.
 PNEUMONIA, OTHER:  Added vanco and increased ceftaz for continued
   fevers.  WBC is decreased today.
 HYPOTENSION:  Septic shock.  Off pressors today.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2178-12-8**] 03:15 AM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2178-12-5**] 06:08 PM
   Multi Lumen - [**2178-12-5**] 11:06 PM
   Arterial Line - [**2178-12-6**] 12:01 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2178-12-09 05:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -ECHO:Suboptimal image quality. Hyperdynamic left ventricular function
   (EF 75%). Mild mitral regurgitation. No vegetations seen, however,
   suboptimal images. If clinically suggested, the absence of a vegetation
   by 2D echocardiography does not exclude endocarditis
   -Lasix to attempt to diurese patient and improve oxygenation-good UOP
   -Persisent anemia-follow HCT, hemolysis labs ordered
   -ID rec: consider dx thoracentesis, BAL, continue abx
   -PEEP decreased from 14->12
   -TF held overnight due to hypoactive BS and lack of stool
 ULTRASOUND - At [**2178-12-8**] 09:45 AM
   Bedside ECHO
 FEVER - 101.8
F - [**2178-12-8**] 08:00 AM
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Azithromycin - [**2178-12-8**] 10:08 PM
   Ceftazidime - [**2178-12-9**] 12:08 AM
   Vancomycin - [**2178-12-9**] 12:50 AM
   Infusions:
   Fentanyl - 12.5 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-12-8**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2178-12-9**] 12:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-9**] 05:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.6
C (97.9
   HR: 77 (75 - 110) bpm
   BP: 99/49(69) {94/47(66) - 122/63(85)} mmHg
   RR: 30 (19 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 13 (6 - 13)mmHg
   Total In:
                                                                  2,922 mL
                                                                    418 mL
   PO:
   TF:
                                                                    488 mL
   IVF:
                                                                  2,163 mL
                                                                    418 mL
   Blood products:
   Total out:
                                                                  3,115 mL
                                                                  1,080 mL
   Urine:
                                                                  3,035 mL
                                                                  1,080 mL
   NG:
                                                                     80 mL
   Stool:
   Drains:
   Balance:
                                                                   -193 mL
                                                                   -662 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 24
   RR (Spontaneous): 3
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   SpO2: 99%
   ABG: 7.51/45/149/33/11
   Ve: 9.1 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General: Intubated & sedated, but opens eyes to voice.  Does not
   reliably follow commands
   HEENT: sclera white conjunctiva pink mmm
   Neck: JVP difficult to assess secondary to RIJ placement
   CV: S1 & S2 regular without murmur
   Pulm: Rhonchi throughout
   Abd: soft nontender with present bowel sounds
   Ext: Warm, generalized edema +palpable distal pulses
   Neuro: Sedated
   Labs / Radiology
   426 K/uL
   7.4 g/dL
   122 mg/dL
   0.4 mg/dL
   33 mEq/L
   3.6 mEq/L
   14 mg/dL
   101 mEq/L
   140 mEq/L
   22.1 %
   19.6 K/uL
        [image002.jpg]
                             [**2178-12-8**]  07:45 AM
                             [**2178-12-8**]  09:33 AM
                             [**2178-12-8**]  01:48 PM
                             [**2178-12-8**]  03:17 PM
                             [**2178-12-8**]  03:46 PM
                             [**2178-12-8**]  06:15 PM
                             [**2178-12-8**]  08:58 PM
                             [**2178-12-9**]  04:08 AM
                             [**2178-12-9**]  04:19 AM
                             [**2178-12-9**]  05:14 AM
   WBC
   18.5
   21.6
   19.6
   Hct
   22.5
   22.9
   22.1
   Plt
   363
   442
   426
   Cr
   0.5
   0.4
   0.4
   TCO2
   34
   36
   34
   36
   35
   38
   37
   Glucose
   151
   129
   122
   Other labs: PT / PTT / INR:14.0/24.7/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:276/0.3, Amylase / Lipase:26/10, Differential-Neuts:94.5 %,
   Band:22.0 %, Lymph:4.6 %, Mono:0.7 %, Eos:0.3 %, Lactic Acid:1.6
   mmol/L, LDH:280 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   55 YOF otherwise healthy c/o malaise and cough for 1 week now has H.
   Flu + bacteremia and continuing respiratory failure.
   #ARDS/Hypoxic Respiratory failure: H. Flu PNA +/- effusions/edema.
   Likely bacterial suprainfection following viral illness.  Now intubated
   and sedated for fatigue/increased work of breathing.
   - Appreciate ID recommendations
   - Ceftaz/Azithro per ID Day 1=[**2177-12-1**], increased Ceftaz to 2 gm on
   [**12-7**],  had persistent fevers so added vanc per ID Day 1=[**2177-12-6**]
   - Follow pan cultures
   - CT scan showed signs of sinusitis, started afrin day [**1-19**]
   - Currently on CMV, will attempt diuresis of [**11-20**] L negative via lasix
   and trial of PS this afternoon
   - Follow PM lytes in setting of diuresis
   #Hypotension:  IVF resuscitation yesterday, required levophed initation
   overnight for increased sedation for better vent compliance,  stable
   off pressors
   -LR for hyperchloremic hypotension to keep SBP >90
   -Holding spironolactone
   -Lactate has been within normal limits
   - TTE no vegetation though suboptimal study.  In absence of fevers will
   not pursue TEE
   .
   #Anemia-Likely baseline anemia of chronic disease with repeated blood
   draws.  Now with poor Bone marrow response given low retic count.,
   likely due to infection.
   -transfuse for HCT <21
   -[**Hospital1 **] HCT
   -Continue to monitor clinically for signs of bleeding.
   #Depression
   -Hold Geodon, Prozac and Ritalin while sedated
   FEN: Hold Tube feeds and place on standing bowel regimen for BM,
   Replete lytes as needed
   Prophy: Heparin SQ, pneumoboots
   Access: 1 PIV, RIJ, a-line
   Code: Full Code
   Communication: with patient
   Dispo: MICU
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 ALTERATION IN NUTRITION
 PNEUMONIA, OTHER
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-12-5**] 11:06 PM
   Arterial Line - [**2178-12-6**] 12:01 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-12-09 09:40:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 yo women with H flu PNA/ARDS.  received lasix for diuresis.
   Echo yesterday showed hyperdynamic LV.
   24 Hour Events:
 ULTRASOUND - At [**2178-12-8**] 09:45 AM
   Bedside ECHO
 FEVER - 101.8
F - [**2178-12-8**] 08:00 AM
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Azithromycin - [**2178-12-8**] 10:08 PM
   Ceftazidime - [**2178-12-9**] 12:08 AM
   Vancomycin - [**2178-12-9**] 12:50 AM
   Infusions:
   Fentanyl - 12.5 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-12-8**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2178-12-9**] 12:09 AM
   Other medications:
   chlorhex
   afrin
   ceftaz
   vanco
   azithro
   protonix
   heparin
   colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-9**] 09:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.3
C (99.1
   HR: 83 (75 - 110) bpm
   BP: 102/50(71) {94/47(66) - 122/63(85)} mmHg
   RR: 20 (19 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 13 (7 - 13)mmHg
   Total In:
                                                                  2,922 mL
                                                                    512 mL
   PO:
   TF:
                                                                    488 mL
   IVF:
                                                                  2,163 mL
                                                                    512 mL
   Blood products:
   Total out:
                                                                  3,115 mL
                                                                  1,165 mL
   Urine:
                                                                  3,035 mL
                                                                  1,165 mL
   NG:
                                                                     80 mL
   Stool:
   Drains:
   Balance:
                                                                   -193 mL
                                                                   -653 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 22
   RR (Spontaneous): 3
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: 7.51/45/149/33/11
   Ve: 8.3 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : L>R)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   426 K/uL
   122 mg/dL
   0.4 mg/dL
   33 mEq/L
   3.6 mEq/L
   14 mg/dL
   101 mEq/L
   140 mEq/L
   22.1 %
   19.6 K/uL
        [image002.jpg]
                             [**2178-12-8**]  07:45 AM
                             [**2178-12-8**]  09:33 AM
                             [**2178-12-8**]  01:48 PM
                             [**2178-12-8**]  03:17 PM
                             [**2178-12-8**]  03:46 PM
                             [**2178-12-8**]  06:15 PM
                             [**2178-12-8**]  08:58 PM
                             [**2178-12-9**]  04:08 AM
                             [**2178-12-9**]  04:19 AM
                             [**2178-12-9**]  05:14 AM
   WBC
   18.5
   21.6
   19.6
   Hct
   22.5
   22.9
   22.1
   Plt
   363
   442
   426
   Cr
   0.5
   0.4
   0.4
   TCO2
   34
   36
   34
   36
   35
   38
   37
   Glucose
   151
   129
   122
   Other labs: PT / PTT / INR:14.0/24.7/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:276/0.3, Amylase / Lipase:26/10, Differential-Neuts:94.5 %,
   Band:22.0 %, Lymph:4.6 %, Mono:0.7 %, Eos:0.3 %, Lactic Acid:1.6
   mmol/L, LDH:280 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**]):
   Overall improved oxygenation.    Will continue to diuresis and continue
   to drop PEEP as overall
   her CXR is much improved.
   PNA:  Although still febrile, WBC is improving and has come off
   pressors so don't feel that doing thoracentesis is necessary especially
   given that effusions are small and procedure would
   be risky.
   Anemia:  likely due to poor BM response in setting of septicemia.
   Abd XR with ++ stool, start standing bowel regiment.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-12-5**] 11:06 PM
   Arterial Line - [**2178-12-6**] 12:01 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2178-12-10 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - -1L on lasix
   - Had BM, TF restared
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Azithromycin - [**2178-12-8**] 10:08 PM
   Ceftazidime - [**2178-12-10**] 12:00 AM
   Vancomycin - [**2178-12-10**] 01:11 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2178-12-9**] 11:01 AM
   Pantoprazole (Protonix) - [**2178-12-9**] 08:07 PM
   Heparin Sodium (Prophylaxis) - [**2178-12-9**] 11:39 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-10**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.1
C (98.7
   HR: 90 (81 - 108) bpm
   BP: 109/55(74) {73/46(64) - 174/148(162)} mmHg
   RR: 20 (18 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,669 mL
                                                                    726 mL
   PO:
             TF:
                                                                     80 mL
                                                                    279 mL
   IVF:
                                                                  1,309 mL
                                                                    398 mL
   Blood products:
   Total out:
                                                                  2,805 mL
                                                                    240 mL
   Urine:
                                                                  2,805 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,136 mL
                                                                    486 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 440 (369 - 500) mL
   PS : 10 cmH2O
   RR (Set): 22
   RR (Spontaneous): 20
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: 7.47/52/86/36/11
   Ve: 9.4 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General: Intubated & sedated, but opens eyes to voice.  Does not
   reliably follow commands
   HEENT: sclera white conjunctiva pink mmm
   Neck: JVP difficult to assess secondary to RIJ placement
   CV: S1 & S2 regular without murmur
   Pulm: Rhonchi throughout
   Abd: soft nontender with present bowel sounds
   Ext: Warm, generalized edema improved from yesterday +palpable distal
   pulses
   Neuro: Sedated
   Skin: Macular, confluent, blanching rash on lower portion of back, no
   vesicles or skin break down
   Labs / Radiology
   523 K/uL
   7.2 g/dL
   111 mg/dL
   0.4 mg/dL
   36 mEq/L
   3.4 mEq/L
   17 mg/dL
   100 mEq/L
   140 mEq/L
   20.9 %
   18.6 K/uL
        [image002.jpg]
                             [**2178-12-8**]  03:46 PM
                             [**2178-12-8**]  06:15 PM
                             [**2178-12-8**]  08:58 PM
                             [**2178-12-9**]  04:08 AM
                             [**2178-12-9**]  04:19 AM
                             [**2178-12-9**]  05:14 AM
                             [**2178-12-9**]  01:27 PM
                             [**2178-12-9**]  05:24 PM
                             [**2178-12-10**]  02:06 AM
                             [**2178-12-10**]  03:52 AM
   WBC
   21.6
   19.6
   17.2
   18.6
   Hct
   22.9
   22.1
   22.0
   20.9
   Plt
   [**Telephone/Fax (3) 4192**]23
   Cr
   0.4
   0.4
   0.4
   0.4
   TCO2
   36
   35
   38
   37
   36
   39
   Glucose
   129
   122
   123
   111
   Other labs: PT / PTT / INR:13.0/23.1/1.1, ALT / AST:19/21, Alk Phos / T
   Bili:276/0.3, Amylase / Lipase:26/10, Differential-Neuts:94.5 %,
   Band:22.0 %, Lymph:4.6 %, Mono:0.7 %, Eos:0.3 %, Fibrinogen:520 mg/dL,
   Lactic Acid:1.6 mmol/L, Albumin:1.8 g/dL, LDH:280 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   55 YOF otherwise healthy c/o malaise and cough for 1 week now has H.
   Flu + bacteremia and continuing respiratory failure.
   #ARDS/Hypoxic Respiratory failure: H. Flu PNA +/- effusions/edema.
   Likely bacterial suprainfection following viral illness.  Now intubated
   and sedated for fatigue/increased work of breathing. CXR actually
   worsening infiltrate on right today, left unchanged
   - Appreciate ID recommendations
   - Ceftaz/Azithro per ID Day 1=[**2177-12-1**], increased Ceftaz to 2 gm on
   [**12-7**],  had persistent fevers so added vanc per ID Day 1=[**2177-12-6**]
   - Follow pan cultures
   - CT scan showed signs of sinusitis, stop afrin today
   - Continue to diurese additional 1-2 L today, given metabolic
   alkalosis, will add Acetazolamide in addition to lasix
   - Follow PM lytes in setting of diuresis
   #Hypotension:  IVF resuscitation yesterday, required levophed initation
   overnight for increased sedation for better vent compliance,  Stable
   off pressors-Resolved
   -LR for hyperchloremic hypotension to keep SBP >90
   -Holding spironolactone
   -Lactate has been within normal limits
   - TTE no vegetation though suboptimal study.  In absence of fevers will
   not pursue TEE
   .
   #Anemia-Likely baseline anemia of chronic disease with repeated blood
   draws.  Now with poor Bone marrow response given low retic count.,
   likely due to infection.
   -transfuse for HCT <21, will administer 1 unit today.
   -[**Hospital1 **] HCT
   -Continue to monitor clinically for signs of bleeding.
   # Constipation-perhaps more constipated at baseline, but has only had
   small BM and flatus while in house.
   -Wean fentanyl and uptitrate midaz as needed for sedation, if
   ineffective switch to propofol
   -Currently on aggressive bowel regimen
   -Attempt manual disimpaction this afternoon
   -enema if no stool in vault
   #Depression
   -Hold Geodon, Prozac and Ritalin while sedated
   .
   #Rash-likely related to head and pressure
   [**Hospital 427**] nursing care and monitor daily
   FEN: Continue Tube feeds and place on standing bowel regimen for BM,
   Replete lytes as needed
   Prophy: Heparin SQ, pneumoboots
   Access: 1 PIV, RIJ, a-line
   Code: Full Code
   Communication: with patient
   Dispo: MICU
 CONSTIPATION (OBSTIPATION, FOS)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 ALTERATION IN NUTRITION
 PNEUMONIA, OTHER
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2178-12-9**] 10:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-12-5**] 11:06 PM
   Arterial Line - [**2178-12-6**] 12:01 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-12-10 10:14:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 yo women with ARDS from H. flu PNA, as been afebrile for 36 hours
   and improving.
   24 Hour Events:
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Azithromycin - [**2178-12-8**] 10:08 PM
   Vancomycin - [**2178-12-10**] 01:11 AM
   Ceftazidime - [**2178-12-10**] 08:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2178-12-9**] 11:01 AM
   Pantoprazole (Protonix) - [**2178-12-9**] 08:07 PM
   Heparin Sodium (Prophylaxis) - [**2178-12-10**] 08:00 AM
   Other medications:
   chlorhex
   lactulose
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-10**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.2
   HR: 90 (81 - 108) bpm
   BP: 112/58(78) {73/46(65) - 174/148(162)} mmHg
   RR: 21 (18 - 27) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
   CVP: 9 (9 - 9)mmHg
   Total In:
                                                                  1,669 mL
                                                                  1,277 mL
   PO:
   TF:
                                                                     80 mL
                                                                    399 mL
   IVF:
                                                                  1,309 mL
                                                                    598 mL
   Blood products:
   Total out:
                                                                  2,805 mL
                                                                    360 mL
   Urine:
                                                                  2,805 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,136 mL
                                                                    917 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 554 (369 - 554) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   SpO2: 95%
   ABG: 7.48/51/99.[**Numeric Identifier **]/36/12
   Ve: 11.2 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l, Rhonchorous:
   diffuse )
   Abdominal: Soft, Non-tender
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.2 g/dL
   523 K/uL
   111 mg/dL
   0.4 mg/dL
   36 mEq/L
   3.4 mEq/L
   17 mg/dL
   100 mEq/L
   140 mEq/L
   20.9 %
   18.6 K/uL
        [image002.jpg]
                             [**2178-12-8**]  06:15 PM
                             [**2178-12-8**]  08:58 PM
                             [**2178-12-9**]  04:08 AM
                             [**2178-12-9**]  04:19 AM
                             [**2178-12-9**]  05:14 AM
                             [**2178-12-9**]  01:27 PM
                             [**2178-12-9**]  05:24 PM
                             [**2178-12-10**]  02:06 AM
                             [**2178-12-10**]  03:52 AM
                             [**2178-12-10**]  08:22 AM
   WBC
   21.6
   19.6
   17.2
   18.6
   Hct
   22.9
   22.1
   22.0
   20.9
   Plt
   [**Telephone/Fax (3) 4192**]23
   Cr
   0.4
   0.4
   0.4
   0.4
   TCO2
   35
   38
   37
   36
   39
   39
   Glucose
   129
   122
   123
   111
   Other labs: PT / PTT / INR:13.0/23.1/1.1, ALT / AST:19/21, Alk Phos / T
   Bili:276/0.3, Amylase / Lipase:26/10, Differential-Neuts:94.5 %,
   Band:22.0 %, Lymph:4.6 %, Mono:0.7 %, Eos:0.3 %, Fibrinogen:520 mg/dL,
   Lactic Acid:1.6 mmol/L, Albumin:1.8 g/dL, LDH:280 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   Respiratory failure/ARDS:  Continued improvement.  Now on PSV 10/10,
   slightly tachypneic, with worsened CXR likely represents lower level of
   PEEP.  Continue diuresis as is 15L positive.
   Anemia:  low retic count, will transfuse, related to critical  illness,
   stools are guaiac negative.
   H. flu PNA:  On broad spectrum antibiotics.  continue for now.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2178-12-9**] 10:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-12-5**] 11:06 PM
   Arterial Line - [**2178-12-6**] 12:01 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2178-12-11 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Put on standing Lasix 40mg IV BID, with additional doses as needed
   - Repleted K
   - Pt put out 2300 cc of urine in one hour to 40mg of lasix!
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Ceftazidime - [**2178-12-10**] 04:43 PM
   Azithromycin - [**2178-12-10**] 08:00 PM
   Vancomycin - [**2178-12-11**] 01:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2178-12-10**] 07:09 PM
   Pantoprazole (Protonix) - [**2178-12-10**] 08:43 PM
   Heparin Sodium (Prophylaxis) - [**2178-12-11**] 12:23 AM
   Midazolam (Versed) - [**2178-12-11**] 05:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-11**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 86 (81 - 105) bpm
   BP: 100/67(83) {91/45(61) - 129/67(89)} mmHg
   RR: 20 (19 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 9 (6 - 9)mmHg
   Total In:
                                                                  3,730 mL
                                                                    851 mL
   PO:
   TF:
                                                                    969 mL
                                                                    336 mL
   IVF:
                                                                  1,896 mL
                                                                    296 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  5,330 mL
                                                                  1,080 mL
   Urine:
                                                                  5,330 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,600 mL
                                                                   -229 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 554 (436 - 554) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: 7.46/46/165/31/8
   Ve: 13.3 L/min
   PaO2 / FiO2: 330
   Physical Examination
   General: Intubated & sedated, but opens eyes to voice.  Does not
   reliably follow commands
   HEENT: sclera white conjunctiva pink mmm
   Neck: JVP difficult to assess secondary to RIJ placement
   CV: S1 & S2 regular without murmur
   Pulm: Rhonchi throughout
   Abd: soft nontender with present bowel sounds
   Ext: Warm, generalized edema improved from yesterday +palpable distal
   pulses
   Neuro: Sedated
   Skin: Macular, confluent, blanching rash on lower portion of back, no
   vesicles or skin break down-no progression
   Labs / Radiology
   575 K/uL
   8.1 g/dL
   133 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.5 mEq/L
   12 mg/dL
   102 mEq/L
   138 mEq/L
   23.2 %
   17.7 K/uL
        [image002.jpg]
                             [**2178-12-9**]  04:19 AM
                             [**2178-12-9**]  05:14 AM
                             [**2178-12-9**]  01:27 PM
                             [**2178-12-9**]  05:24 PM
                             [**2178-12-10**]  02:06 AM
                             [**2178-12-10**]  03:52 AM
                             [**2178-12-10**]  08:22 AM
                             [**2178-12-10**]  04:41 PM
                             [**2178-12-11**]  01:42 AM
                             [**2178-12-11**]  02:06 AM
   WBC
   19.6
   17.2
   18.6
   16.8
   17.7
   Hct
   22.1
   22.0
   20.9
   23.1
   23.2
   Plt
   426
   489
   523
   538
   575
   Cr
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   37
   36
   39
   39
   34
   Glucose
   122
   123
   111
   120
   133
   Other labs: PT / PTT / INR:13.4/22.7/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:276/0.3, Amylase / Lipase:26/10, Differential-Neuts:94.5 %,
   Band:22.0 %, Lymph:4.6 %, Mono:0.7 %, Eos:0.3 %, Fibrinogen:520 mg/dL,
   Lactic Acid:1.6 mmol/L, Albumin:1.8 g/dL, LDH:280 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   55 YOF otherwise healthy c/o malaise and cough for 1 week now has H.
   Flu + bacteremia and continuing respiratory failure.
   #ARDS/Hypoxic Respiratory failure: H. Flu PNA +/- effusions/edema.
   Likely bacterial suprainfection following viral illness.  Now intubated
   and sedated for fatigue/increased work of breathing. CXR improved
   today, despite rising temp/wbc
   - Appreciate ID recommendations
   - Ceftaz/Azithro per ID Day 1=[**2177-12-1**], increased Ceftaz to 2 gm on
   [**12-7**],  had persistent fevers so added vanc per ID Day 1=[**2177-12-6**], will
   discontinue azithro/vanc
   - Follow pan cultures
   - Continue to diurese additional 1-2 L today, given metabolic
   alkalosis, will add Acetazolamide in addition to lasix for total of 4
   doses
   - Follow PM lytes in setting of diuresis
   - Will Cx if temp >100.4
   - Wean vent today, decrease PEEP to 5 on AM rounds, attempt SBT this
   afternoon.
   #Hypotension:  IVF resuscitation yesterday, required levophed initation
   overnight for increased sedation for better vent compliance,  Stable
   off pressors-Resolved
   -LR for hyperchloremic hypotension to keep SBP >90
   -Holding spironolactone
   -Lactate has been within normal limits
   - TTE no vegetation though suboptimal study.  In absence of fevers will
   not pursue TEE
   .
   #Anemia-Likely baseline anemia of chronic disease with repeated blood
   draws.  Now with poor Bone marrow response given low retic count.,
   likely due to infection.
   -transfuse for HCT <21, appropritate bump to 23 yesterday after 1 uPRBC
   -[**Hospital1 **] HCT
   -Continue to monitor clinically for signs of bleeding.
   # Constipation-perhaps more constipated at baseline, but has only had
   small BM and flatus while in house, this morning had several large BM,
   but X ray shows full of stool
   -Wean fentanyl and uptitrate midaz as needed for sedation, if
   ineffective switch to propofol
   -Currently on aggressive bowel regimen
   - C diff sent
   .
   #Depression
   -Hold Geodon, Prozac and Ritalin while sedated
   .
   #Rash-likely related to head and pressure
   [**Hospital 427**] nursing care and monitor daily
   FEN: Continue Tube feeds and place on standing bowel regimen for BM,
   Replete lytes as needed
   Prophy: Heparin SQ, pneumoboots
   Access: 1 PIV, RIJ, a-line, IR PICC requested
   Code: Full Code
   Communication: with patient
   Dispo: MICU
 CONSTIPATION (OBSTIPATION, FOS)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 ALTERATION IN NUTRITION
 PNEUMONIA, OTHER
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2178-12-10**] 09:45 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-12-5**] 11:06 PM
   Arterial Line - [**2178-12-6**] 12:01 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-12-11 09:44:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 yo women with H. flu PNA, ARDS. Continues to improve
   24 Hour Events:
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Azithromycin - [**2178-12-10**] 08:00 PM
   Vancomycin - [**2178-12-11**] 01:00 AM
   Ceftazidime - [**2178-12-11**] 08:33 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2178-12-10**] 07:09 PM
   Pantoprazole (Protonix) - [**2178-12-10**] 08:43 PM
   Heparin Sodium (Prophylaxis) - [**2178-12-11**] 08:33 AM
   Midazolam (Versed) - [**2178-12-11**] 08:33 AM
   Other medications:
   robitussin
   protonix
   hep s/q chlorhexidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-11**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.4
C (99.4
   HR: 89 (81 - 105) bpm
   BP: 123/70(92) {91/45(61) - 129/82(98)} mmHg
   RR: 20 (19 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 9 (6 - 9)mmHg
   Total In:
                                                                  3,730 mL
                                                                  1,103 mL
   PO:
   TF:
                                                                    969 mL
                                                                    390 mL
   IVF:
                                                                  1,896 mL
                                                                    433 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  5,330 mL
                                                                  1,480 mL
   Urine:
                                                                  5,330 mL
                                                                  1,480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,600 mL
                                                                   -377 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 518 (436 - 554) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: 7.46/46/165/31/8
   Ve: 7.7 L/min
   PaO2 / FiO2: 330
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : right>7)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, Rash: posterior erthyema unchanged
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   575 K/uL
   133 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.5 mEq/L
   12 mg/dL
   102 mEq/L
   138 mEq/L
   23.2 %
   17.7 K/uL
        [image002.jpg]
                             [**2178-12-9**]  04:19 AM
                             [**2178-12-9**]  05:14 AM
                             [**2178-12-9**]  01:27 PM
                             [**2178-12-9**]  05:24 PM
                             [**2178-12-10**]  02:06 AM
                             [**2178-12-10**]  03:52 AM
                             [**2178-12-10**]  08:22 AM
                             [**2178-12-10**]  04:41 PM
                             [**2178-12-11**]  01:42 AM
                             [**2178-12-11**]  02:06 AM
   WBC
   19.6
   17.2
   18.6
   16.8
   17.7
   Hct
   22.1
   22.0
   20.9
   23.1
   23.2
   Plt
   426
   489
   523
   538
   575
   Cr
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   37
   36
   39
   39
   34
   Glucose
   122
   123
   111
   120
   133
   Other labs: PT / PTT / INR:13.4/22.7/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:276/0.3, Amylase / Lipase:26/10, Differential-Neuts:94.5 %,
   Band:22.0 %, Lymph:4.6 %, Mono:0.7 %, Eos:0.3 %, Fibrinogen:520 mg/dL,
   Lactic Acid:1.6 mmol/L, Albumin:1.8 g/dL, LDH:280 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   ARDS:  much improved gas today.  Will drop PEEP down to 5.  And then
   can try and wean PS.
   H. flu PNA:  stop azithro and vanco as per ID, and continue ceftaz
   Continue TFs, no having BMs.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-12-5**] 11:06 PM
   Arterial Line - [**2178-12-6**] 12:01 AM
   Comments: Will get IR guided PIC and remove central line.
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes
   Patient is critically ill

2178-12-12 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2178-12-11**] 01:00 PM
 MULTI LUMEN - STOP [**2178-12-11**] 03:05 PM
   -PICC at bedside
   -Failed SBT in afternoon for tachypnea, RSBI >100
   -Changed from fent/midaz to propofol with fentanyl boluses PRN
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Azithromycin - [**2178-12-10**] 08:00 PM
   Vancomycin - [**2178-12-11**] 01:00 AM
   Ceftazidime - [**2178-12-11**] 11:54 PM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2178-12-11**] 08:33 AM
   Pantoprazole (Protonix) - [**2178-12-11**] 08:17 PM
   Furosemide (Lasix) - [**2178-12-11**] 08:17 PM
   Heparin Sodium (Prophylaxis) - [**2178-12-11**] 11:54 PM
   Fentanyl - [**2178-12-12**] 06:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-12**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.3
   HR: 106 (81 - 110) bpm
   BP: 131/68(92) {88/41(56) - 144/81(103)} mmHg
   RR: 30 (17 - 40) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  3,345 mL
                                                                    703 mL
   PO:
             TF:
                                                                    955 mL
                                                                    371 mL
   IVF:
                                                                  1,850 mL
                                                                    232 mL
   Blood products:
   Total out:
                                                                  7,000 mL
                                                                    900 mL
   Urine:
                                                                  7,000 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,655 mL
                                                                   -197 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 544 (455 - 544) mL
   PS : 5 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 106
   PIP: 6 cmH2O
   SpO2: 98%
   ABG: 7.41/43/127/28/2
   Ve: 18.9 L/min
   PaO2 / FiO2: 254
   Physical Examination
   General: Intubated & sedated, but opens eyes to voice.  Does not
   reliably follow commands
   HEENT: sclera white conjunctiva pink, Dry mucous membranes
   Neck: JVP difficult to assess secondary to RIJ placement
   CV: S1 & S2 regular without murmur
   Pulm: Rhonchi throughout
   Abd: soft nontender with present bowel sounds
   Ext: Warm, generalized edema improved from yesterday +palpable distal
   pulses
   Neuro: Sedated
   Skin: Macular, confluent, blanching rash on lower portion of back, no
   vesicles or skin break down-no progression
   Labs / Radiology
   699 K/uL
   7.9 g/dL
   106 mg/dL
   0.3 mg/dL
   28 mEq/L
   3.9 mEq/L
   9 mg/dL
   105 mEq/L
   138 mEq/L
   22.5 %
   19.3 K/uL
        [image002.jpg]
                             [**2178-12-10**]  02:06 AM
                             [**2178-12-10**]  03:52 AM
                             [**2178-12-10**]  08:22 AM
                             [**2178-12-10**]  04:41 PM
                             [**2178-12-11**]  01:42 AM
                             [**2178-12-11**]  02:06 AM
                             [**2178-12-11**]  11:11 AM
                             [**2178-12-11**]  03:50 PM
                             [**2178-12-11**]  03:55 PM
                             [**2178-12-12**]  02:24 AM
   WBC
   18.6
   16.8
   17.7
   19.3
   Hct
   20.9
   23.1
   23.2
   22.5
   Plt
   523
   538
   575
   699
   Cr
   0.4
   0.4
   0.4
   0.4
   0.3
   TCO2
   39
   39
   34
   32
   28
   Glucose
   111
   120
   133
   119
   106
   Other labs: PT / PTT / INR:12.8/26.6/1.1, ALT / AST:34/30, Alk Phos / T
   Bili:245/0.3, Amylase / Lipase:26/10, Differential-Neuts:94.5 %,
   Band:22.0 %, Lymph:4.6 %, Mono:0.7 %, Eos:0.3 %, Fibrinogen:520 mg/dL,
   Lactic Acid:1.6 mmol/L, Albumin:1.8 g/dL, LDH:276 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.1 mg/dL
   Imaging: [**12-12**]: CXR: Diffuse infiltrate improved today
   Microbiology: CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2178-12-11**]):
         Feces negative for C.difficile toxin A & B by EIA.
   Assessment and Plan
   55 YOF otherwise healthy c/o malaise and cough for 1 week now has H.
   Flu + bacteremia and continuing respiratory failure.
   #ARDS/Hypoxic Respiratory failure: H. Flu PNA +/- effusions. Now
   intubated and sedated for fatigue/increased work of breathing. CXR
   improved today, despite rising temp/wbc
   - Appreciate ID recommendations
   - Ceftaz per ID Day 1=[**2177-12-1**], increased Ceftaz to 2 gm on [**12-7**],  had
   persistent fevers so added vanc per ID Day 1=[**2177-12-6**], will
   discontinue azithro/vanc
   - Follow pan cultures
   - Will Cx if temp >100.4
   - Wean vent today, decrease PEEP to 5 on AM rounds, attempt SBT this
   afternoon.
   #Hypotension:  IVF resuscitation yesterday, required levophed initation
   overnight for increased sedation for better vent compliance,  Stable
   off pressors-Resolved
   -LR for hyperchloremic hypotension to keep SBP >90
   -Holding spironolactone
   -Lactate has been within normal limits
   - TTE no vegetation though suboptimal study.  In absence of fevers will
   not pursue TEE
   #Anemia-Likely baseline anemia of chronic disease with repeated blood
   draws.  Now with poor Bone marrow response given low retic count.,
   likely due to infection.
   -transfuse for HCT <21, appropritate bump to 23 yesterday after 1 uPRBC
   -[**Hospital1 **] HCT
   -Continue to monitor clinically for signs of bleeding.
   # Constipation-perhaps more constipated at baseline, but has only had
   small BM and flatus while in house, this morning had several large BM,
   but X ray shows full of stool
   -Wean fentanyl and uptitrate midaz as needed for sedation, if
   ineffective switch to propofol
   -Currently on aggressive bowel regimen
   - C diff sent
   #Depression
   -Hold Geodon, Prozac and Ritalin while sedated
   #Rash-likely related to head and pressure
   [**Hospital 427**] nursing care and monitor daily
   FEN: Continue Tube feeds and place on standing bowel regimen for BM,
   Replete lytes as needed
   Prophy: Heparin SQ, pneumoboots
   Access: 1 PIV, RIJ, a-line, IR PICC requested
   Code: Full Code
   Communication: with patient
   Dispo: MICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2178-12-12**] 02:38 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-12-6**] 12:01 AM
   PICC Line - [**2178-12-11**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-12-13 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2178-12-12**] 12:46 PM
   from PICC line
 BLOOD CULTURED - At [**2178-12-12**] 12:56 PM
   from venipuncture
 URINE CULTURE - At [**2178-12-12**] 01:02 PM
 ARTERIAL LINE - STOP [**2178-12-12**] 01:20 PM
 FEVER - 101.1
F - [**2178-12-12**] 08:00 PM
   [**12-12**]
   -Not extubated
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Azithromycin - [**2178-12-10**] 08:00 PM
   Vancomycin - [**2178-12-11**] 01:00 AM
   Ceftazidime - [**2178-12-12**] 04:30 PM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2178-12-12**] 06:47 PM
   Pantoprazole (Protonix) - [**2178-12-12**] 08:06 PM
   Propofol - [**2178-12-12**] 09:12 PM
   Heparin Sodium (Prophylaxis) - [**2178-12-13**] 12:11 AM
   Furosemide (Lasix) - [**2178-12-13**] 02:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-13**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.8
C (98.2
   HR: 88 (71 - 105) bpm
   BP: 121/59(73) {95/42(56) - 128/61(75)} mmHg
   RR: 28 (18 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,677 mL
                                                                    298 mL
   PO:
             TF:
                                                                    929 mL
                                                                    103 mL
   IVF:
                                                                  1,354 mL
                                                                    146 mL
   Blood products:
   Total out:
                                                                  5,700 mL
                                                                  1,075 mL
   Urine:
                                                                  5,700 mL
                                                                  1,075 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,023 mL
                                                                   -777 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 463 (448 - 551) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 867
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.51/40/157/31/8
   Ve: 9.4 L/min
   PaO2 / FiO2: 314
   Physical Examination
   General: Intubated & sedated, but opens eyes to voice.  Does not
   reliably follow commands
   HEENT: sclera white conjunctiva pink, Dry mucous membranes
   Neck: JVP difficult to assess secondary to RIJ placement
   CV: S1 & S2 regular without murmur
   Pulm: Rhonchi throughout
   Abd: soft nontender with present bowel sounds
   Ext: Warm, generalized edema improved from yesterday +palpable distal
   pulses
   Neuro: Sedated
   Skin: Macular, confluent, blanching rash on lower portion of back, no
   vesicles or skin break down-no progression
   Labs / Radiology
   815 K/uL
   8.3 g/dL
   101 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.8 mEq/L
   10 mg/dL
   106 mEq/L
   140 mEq/L
   24.4 %
   16.4 K/uL
        [image002.jpg]
                             [**2178-12-10**]  04:41 PM
                             [**2178-12-11**]  01:42 AM
                             [**2178-12-11**]  02:06 AM
                             [**2178-12-11**]  11:11 AM
                             [**2178-12-11**]  03:50 PM
                             [**2178-12-11**]  03:55 PM
                             [**2178-12-12**]  02:24 AM
                             [**2178-12-12**]  08:59 AM
                             [**2178-12-12**]  05:25 PM
                             [**2178-12-13**]  04:03 AM
   WBC
   16.8
   17.7
   19.3
   17.6
   16.4
   Hct
   23.1
   23.2
   22.5
   22.8
   24.4
   Plt
   538
   575
   699
   749
   815
   Cr
   0.4
   0.4
   0.4
   0.3
   0.4
   0.4
   TCO2
   34
   32
   28
   33
   Glucose
   120
   133
   119
   106
   119
   101
   Other labs: PT / PTT / INR:12.8/26.6/1.1, ALT / AST:34/30, Alk Phos / T
   Bili:245/0.3, Amylase / Lipase:26/10, Differential-Neuts:94.5 %,
   Band:22.0 %, Lymph:4.6 %, Mono:0.7 %, Eos:0.3 %, Fibrinogen:520 mg/dL,
   Lactic Acid:1.6 mmol/L, Albumin:1.8 g/dL, LDH:276 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   55 YOF admitted for c/o malaise and cough for 1 week now has H. Flu +
   bacteremia and continuing respiratory failure secondary to ARDS.
   #ARDS/Hypoxic Respiratory failure:  Likely post viral pneumonia, most
   likely pathogen H. Flu as isolated from blood, however continues to
   worsen with fevers after discontinuing vancomycin.  [**Month (only) 8**] have second
   pathogen.  Now intubated and sedated for fatigue/increased work of
   breathing. CXR worse today.
   - Appreciate ID recommendations
   - Ceftaz per ID Day 1=[**2177-12-1**]
   - Follow pan cultures
   - Will Cx if temp >100.4
   - Wean vent today, decrease PEEP to 5 on AM rounds, attempt SBT this
   afternoon.
   - Continue Diuresis with lasix 10mg IV QID goal -2L
   #Hypotension:  Resolved.
   -LR for hyperchloremic hypotension to keep SBP >90
   -Holding spironolactone
   -Lactate has been within normal limits
   - TTE no vegetation though suboptimal study.  In absence of fevers will
   not pursue TEE
   #Anemia-Likely baseline anemia of chronic disease with repeated blood
   draws.  Now with poor Bone marrow response given low retic count.,
   likely due to infection.
   -transfuse for HCT <21, appropritate bump to 23 yesterday after 1 uPRBC
   -[**Hospital1 **] HCT
   -Continue to monitor clinically for signs of bleeding.
   # Constipation-perhaps more constipated at baseline, but has only had
   small BM and flatus while in house, this morning had several large BM,
   but X ray shows full of stool
   -Wean fentanyl and uptitrate midaz as needed for sedation, if
   ineffective switch to propofol
   -Currently on aggressive bowel regimen
   - C diff sent
   #Depression
   -Hold Geodon, Prozac and Ritalin while sedated
   #Rash-likely related to head and pressure
   [**Hospital 427**] nursing care and monitor daily
   FEN: Continue Tube feeds and place on standing bowel regimen for BM,
   Replete lytes as needed
   Prophy: Heparin SQ, pneumoboots
   Access: 1 PIV, RIJ, a-line, IR PICC requested
   Code: Full Code
   Communication: with patient
   Dispo: MICU
 ELECTROLYTE & FLUID DISORDER, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 ALTERATION IN NUTRITION
 PNEUMONIA, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2178-12-11**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-12-14 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Unable to extubate
   - CT chest done, showed larger pleural effusions
   - Bronch with BAL done
   - Changed antibiotic coverage to meropenem and vancomycin
   - Thoracentesis showed evidence of exudative effusion no evidence of
   organisms
   - Pressures dropped to 80's systolic overnight after bolus of fentanyl
   for sedation, did not give IV fluids, however Hct was lower at 21.9, so
   transfused one unit of PRBCs
   - Repleted Phos
 BRONCHOSCOPY - At [**2178-12-13**] 01:45 PM
 THORACENTESIS - At [**2178-12-13**] 05:30 PM
 BLOOD CULTURED - At [**2178-12-13**] 10:03 PM
 FEVER - 101.1
F - [**2178-12-13**] 07:00 PM
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Ceftazidime - [**2178-12-12**] 04:30 PM
   Vancomycin - [**2178-12-13**] 08:54 PM
   Meropenem - [**2178-12-14**] 04:00 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2178-12-13**] 01:43 PM
   Pantoprazole (Protonix) - [**2178-12-13**] 07:56 PM
   Furosemide (Lasix) - [**2178-12-13**] 07:57 PM
   Fentanyl - [**2178-12-13**] 11:27 PM
   Heparin Sodium (Prophylaxis) - [**2178-12-14**] 12:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-14**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.7
C (98.1
   HR: 91 (69 - 93) bpm
   BP: 107/53(65) {82/36(47) - 120/64(75)} mmHg
   RR: 23 (15 - 34) insp/min
   SpO2: 85%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,992 mL
                                                                    546 mL
   PO:
             TF:
                                                                    378 mL
                                                                    298 mL
   IVF:
                                                                  1,219 mL
                                                                    248 mL
   Blood products:
   Total out:
                                                                  2,868 mL
                                                                    240 mL
   Urine:
                                                                  2,868 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -876 mL
                                                                    306 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 397 (397 - 440) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 95
   PIP: 31 cmH2O
   SpO2: 85%
   ABG: ///33/
   NIF: -28 cmH2O
   Ve: 11.4 L/min
   Physical Examination
   General: Intubated & sedated, but opens eyes to voice, follows commands
   and denies pain or shortness of breath
   HEENT: sclera white conjunctiva pink, Dry mucous membranes
   Neck: JVP difficult to assess secondary to RIJ placement
   CV: S1 & S2 regular without murmur
   Pulm: Rhonchi throughout
   Abd: soft nontender with present bowel sounds
   Ext: Warm, generalized edema improved from yesterday +palpable distal
   pulses
   Neuro: Sedated
   Skin: Macular, confluent, blanching rash on lower portion of back, no
   vesicles or skin break down-no progression
   Labs / Radiology
   760 K/uL
   7.5 g/dL
   110 mg/dL
   0.3 mg/dL
   33 mEq/L
   3.8 mEq/L
   14 mg/dL
   104 mEq/L
   141 mEq/L
   21.9 %
   11.7 K/uL
        [image002.jpg]
                             [**2178-12-11**]  02:06 AM
                             [**2178-12-11**]  11:11 AM
                             [**2178-12-11**]  03:50 PM
                             [**2178-12-11**]  03:55 PM
                             [**2178-12-12**]  02:24 AM
                             [**2178-12-12**]  08:59 AM
                             [**2178-12-12**]  05:25 PM
                             [**2178-12-13**]  04:03 AM
                             [**2178-12-13**]  03:35 PM
                             [**2178-12-14**]  04:00 AM
   WBC
   19.3
   17.6
   16.4
   11.7
   Hct
   22.5
   22.8
   24.4
   21.9
   Plt
   699
   749
   815
   760
   Cr
   0.4
   0.3
   0.4
   0.4
   0.4
   0.3
   TCO2
   34
   32
   28
   33
   Glucose
   119
   106
   119
   101
   106
   110
   Other labs: PT / PTT / INR:12.4/25.1/1.0, ALT / AST:34/30, Alk Phos / T
   Bili:245/0.3, Amylase / Lipase:26/10, Differential-Neuts:94.5 %,
   Band:22.0 %, Lymph:4.6 %, Mono:0.7 %, Eos:0.3 %, Fibrinogen:520 mg/dL,
   Lactic Acid:1.6 mmol/L, Albumin:2.0 g/dL, LDH:224 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   55 YOF admitted for c/o malaise and cough for 1 week now has H. Flu +
   bacteremia and continuing respiratory failure secondary to ARDS.
   #ARDS/Hypoxic Respiratory failure on Day 9 of intubation:  Likely post
   viral pneumonia, most likely pathogen H. Flu as isolated from blood,
   however continues to worsen with fevers after discontinuing
   vancomycin.  [**Month (only) 8**] have second pathogen. Intubated and sedated for
   fatigue/increased work of breathing. CXR worse today with bilateral
   infiltrates.
   - Appreciate ID recommendations
   - continue Meropenem and Vanc (Day 1=[**12-13**])
   - Follow pan cultures
   - F/u BAL
   - Hold diuresis in setting of low pressures
   - [**Month (only) 8**] require sinus drainage-ENT consulted would like further imaging
   - Follow up Exhaled CO2 to get indication of dead space
   - Fevers may represent inflammatory reaction and not actual infection,
   will check CBC with diff, LFTs, [**Doctor First Name 293**]/Lip and treat with Tylenol if all
   negative
   #Transfusion reaction: 15 minutes into transfusion patient became
   hyperthermic to 101.4 from 99.2 and pressures were in 80s
   -          Stop and hold on transfusion
   -          Tylenol
   -          Benadryl
   #Hypotension: Worsened overnight in response to fentanyl.  Then
   continued in AM on propofol-may represent propofol infusion syndrome.
   Could also represent transfusion reaction,
    -Holding spironolactone
   - TTE no vegetation though suboptimal study.  In absence of fevers will
   not pursue TEE
   -Check Mcvo2, lactate and CK
   -Check LFTs, CBC/diff and amylase/lipase
   #Anemia- Likely secondary to bone marrow suppression in the setting of
   infection.
   -transfuse for HCT <21, appropritate bump to 23 yesterday after 1 uPRBC
   -[**Hospital1 **] HCT
   -Continue to monitor clinically for signs of bleeding.
   # Constipation- chronic issue, resolved
   - PRN bowel reg
   - C diff -negative
   #Depression
   -          Restarted Geodon, Prozac
   -          Hold Ritalin while sedated
   #Rash-likely related to head and pressure
   [**Hospital 427**] nursing care and monitor daily
   FEN: Continue Tube feeds, Replete lytes as needed
   Prophy: Heparin SQ, pneumoboots
   Access: PICC
   Code: Full Code
   Communication: with patient
s husband
   Dispo: MICU
 ELECTROLYTE & FLUID DISORDER, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 ALTERATION IN NUTRITION
 PNEUMONIA, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2178-12-11**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-12-15 05:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Extubated
   -ENT-no further imaging, nasal saline washes when stable on extubation
   -D/C lasix
   -PM labs + for mild pancreatitis-pt not symptomatic, decided to observe
   and replace fluid if BP < 90, triglycerides ordered
   -Repleted Phos
   -Started on CLD in AM
 INVASIVE VENTILATION - STOP [**2178-12-14**] 04:22 PM
 FEVER - 101.4
F - [**2178-12-14**] 09:30 AM
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Ceftazidime - [**2178-12-12**] 04:30 PM
   Vancomycin - [**2178-12-14**] 07:44 PM
   Meropenem - [**2178-12-15**] 03:48 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2178-12-14**] 08:35 AM
   Pantoprazole (Protonix) - [**2178-12-14**] 07:44 PM
   Heparin Sodium (Prophylaxis) - [**2178-12-14**] 11:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-15**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.3
C (97.4
   HR: 84 (74 - 92) bpm
   BP: 111/54(68) {89/37(50) - 111/55(68)} mmHg
   RR: 35 (23 - 40) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    Mixed Venous O2% Sat: 75 - 75
   Total In:
                                                                  1,997 mL
                                                                    160 mL
   PO:
   TF:
                                                                    706 mL
   IVF:
                                                                  1,213 mL
                                                                    160 mL
   Blood products:
                                                                     18 mL
   Total out:
                                                                  1,750 mL
                                                                    235 mL
   Urine:
                                                                  1,750 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    247 mL
                                                                    -75 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 30 (30 - 444) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 30
   PEEP: 0 cmH2O
   FiO2: 70%
   PIP: 5 cmH2O
   SpO2: 98%
   ABG: 7.54/40/122/31/11
   Ve: 13.2 L/min
   PaO2 / FiO2: 174
   Physical Examination
   General: Intubated & sedated, but opens eyes to voice, follows commands
   and denies pain or shortness of breath
   HEENT: sclera white conjunctiva pink, Dry mucous membranes
   Neck: JVP difficult to assess secondary to RIJ placement
   CV: S1 & S2 regular without murmur
   Pulm: Rhonchi throughout
   Abd: soft nontender with present bowel sounds
   Ext: Warm, generalized edema improved from yesterday +palpable distal
   pulses
   Neuro: Sedated
   Skin: Macular, confluent, blanching rash on lower portion of back, no
   vesicles or skin break down-no progression
   Labs / Radiology
   951 K/uL
   8.0 g/dL
   84 mg/dL
   0.4 mg/dL
   31 mEq/L
   4.0 mEq/L
   12 mg/dL
   104 mEq/L
   140 mEq/L
   23.3 %
   13.7 K/uL
         [image002.jpg]
                             [**2178-12-11**]  03:55 PM
                             [**2178-12-12**]  02:24 AM
                             [**2178-12-12**]  08:59 AM
                             [**2178-12-12**]  05:25 PM
                             [**2178-12-13**]  04:03 AM
                             [**2178-12-13**]  03:35 PM
                             [**2178-12-14**]  04:00 AM
                             [**2178-12-14**]  04:03 PM
                             [**2178-12-14**]  05:20 PM
                             [**2178-12-15**]  03:30 AM
   WBC
   19.3
   17.6
   16.4
   11.7
   14.9
   13.7
   Hct
   22.5
   22.8
   24.4
   21.9
   23.1
   23.3
   Plt
   699
   749
   815
   [**Telephone/Fax (3) 4277**]
   Cr
   0.3
   0.4
   0.4
   0.4
   0.3
   0.4
   0.4
   TCO2
   28
   33
   35
   Glucose
   106
   119
   101
   106
   110
   102
   84
   Other labs: PT / PTT / INR:13.1/28.4/1.1, CK / CKMB / Troponin-T:27//,
   ALT / AST:26/20, Alk Phos / T Bili:191/0.3, Amylase / Lipase:124/93,
   Differential-Neuts:88.1 %, Band:0.0 %, Lymph:8.3 %, Mono:1.6 %, Eos:1.9
   %, Fibrinogen:520 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL,
   LDH:267 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   55 YOF admitted for c/o malaise and cough for 1 week now has H. Flu +
   bacteremia and continuing respiratory failure secondary to ARDS.
   #ARDS/Hypoxic Respiratory failure on Day 9 of intubation:  Likely post
   viral pneumonia, most likely pathogen H. Flu as isolated from blood,
   however continues to worsen with fevers after discontinuing
   vancomycin.  [**Month (only) 8**] have second pathogen. Intubated and sedated for
   fatigue/increased work of breathing. CXR worse today with bilateral
   infiltrates.
   - Appreciate ID recommendations
   - continue Meropenem and Vanc (Day 1=[**12-13**])
   - Follow pan cultures
   - F/u BAL
   - Hold diuresis in setting of low pressures
   - [**Month (only) 8**] require sinus drainage-ENT consulted would like further imaging
   - Follow up Exhaled CO2 to get indication of dead space
   - Fevers may represent inflammatory reaction and not actual infection,
   will check CBC with diff, LFTs, [**Doctor First Name 293**]/Lip and treat with Tylenol if all
   negative
   #Transfusion reaction: 15 minutes into transfusion patient became
   hyperthermic to 101.4 from 99.2 and pressures were in 80s
   -          Stop and hold on transfusion
   -          Tylenol
   -          Benadryl
   #Hypotension: Worsened overnight in response to fentanyl.  Then
   continued in AM on propofol-may represent propofol infusion syndrome.
   Could also represent transfusion reaction,
    -Holding spironolactone
   - TTE no vegetation though suboptimal study.  In absence of fevers will
   not pursue TEE
   -Check Mcvo2, lactate and CK
   -Check LFTs, CBC/diff and amylase/lipase
   #Anemia- Likely secondary to bone marrow suppression in the setting of
   infection.
   -transfuse for HCT <21, appropritate bump to 23 yesterday after 1 uPRBC
   -[**Hospital1 **] HCT
   -Continue to monitor clinically for signs of bleeding.
   # Constipation- chronic issue, resolved
   - PRN bowel reg
   - C diff -negative
   #Depression
   -          Restarted Geodon, Prozac
   -          Hold Ritalin while sedated
   #Rash-likely related to head and pressure
   [**Hospital 427**] nursing care and monitor daily
   FEN: Continue Tube feeds, Replete lytes as needed
   Prophy: Heparin SQ, pneumoboots
   Access: PICC
   Code: Full Code
   Communication: with patient
s husband
   Dispo: MICU
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 ELECTROLYTE & FLUID DISORDER, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 ALTERATION IN NUTRITION
 PNEUMONIA, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2178-12-11**] 01:00 PM
   20 Gauge - [**2178-12-14**] 02:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-12-16 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2178-12-15**]
   - Vanc to stop [**12-16**]
   - [**Last Name (un) 350**] if afebrile 48hours ([**12-17**]) pending ID's assent
   - PT/OT: Patient clear to go home, not necessary rehab
   - Ritalin D/C'd at patient request
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Vancomycin - [**2178-12-15**] 07:41 PM
   Meropenem - [**2178-12-16**] 03:52 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-12-15**] 07:42 PM
   Heparin Sodium (Prophylaxis) - [**2178-12-15**] 11:52 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-16**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 88 (72 - 93) bpm
   BP: 109/47(62) {90/43(54) - 128/57(69)} mmHg
   RR: 32 (15 - 40) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,270 mL
                                                                    394 mL
   PO:
                                                                  1,070 mL
             TF:
   IVF:
                                                                  1,050 mL
                                                                    244 mL
   Blood products:
   Total out:
                                                                  2,975 mL
                                                                    395 mL
   Urine:
                                                                  2,975 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -705 mL
                                                                     -1 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 99%
   ABG: ///33/
   Physical Examination
   General: Extubated, communicates without difficulty but still has
   increased work of breathing
   HEENT: sclera white conjunctiva pink, Dry mucous membranes
   Neck: JVP difficult to assess secondary to RIJ placement
   CV: S1 & S2 regular without murmur
   Pulm: Rhonchi throughout
   Abd: soft nontender with present bowel sounds
   Ext: Warm, generalized edema improved from yesterday +palpable distal
   pulses
   Neuro: Sedated
   Skin: Macular, confluent, blanching rash on lower portion of back, no
   vesicles or skin break down-no progression
   Labs / Radiology
   927 K/uL
   8.1 g/dL
   107 mg/dL
   0.4 mg/dL
   33 mEq/L
   3.8 mEq/L
   9 mg/dL
   104 mEq/L
   140 mEq/L
   24.2 %
   15.7 K/uL
        [image002.jpg]
                             [**2178-12-12**]  02:24 AM
                             [**2178-12-12**]  08:59 AM
                             [**2178-12-12**]  05:25 PM
                             [**2178-12-13**]  04:03 AM
                             [**2178-12-13**]  03:35 PM
                             [**2178-12-14**]  04:00 AM
                             [**2178-12-14**]  04:03 PM
                             [**2178-12-14**]  05:20 PM
                             [**2178-12-15**]  03:30 AM
                             [**2178-12-16**]  03:00 AM
   WBC
   19.3
   17.6
   16.4
   11.7
   14.9
   13.7
   15.7
   Hct
   22.5
   22.8
   24.4
   21.9
   23.1
   23.3
   24.2
   Plt
   699
   749
   815
   [**Telephone/Fax (3) 4277**]
   927
   Cr
   0.3
   0.4
   0.4
   0.4
   0.3
   0.4
   0.4
   0.4
   TCO2
   33
   35
   Glucose
   106
   119
   101
   106
   110
   102
   84
   107
   Other labs: PT / PTT / INR:13.2/25.7/1.1, CK / CKMB / Troponin-T:27//,
   ALT / AST:26/20, Alk Phos / T Bili:191/0.3, Amylase / Lipase:121/84,
   Differential-Neuts:88.1 %, Band:0.0 %, Lymph:8.3 %, Mono:1.6 %, Eos:1.9
   %, Fibrinogen:520 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL,
   LDH:267 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   55 YOF admitted for c/o malaise and cough for 1 week now has H. Flu +
   bacteremia and continuing respiratory failure secondary to ARDS.
   #ARDS/Hypoxic Respiratory failure on s/p 9 days of intubation:  Likely
   post viral pneumonia with secondary bacterial infection, most likely
   pathogen H. Flu as isolated from blood, however continues to worsen
   with fevers after discontinuing vancomycin.  [**Month (only) 8**] have second pathogen.
   Intubated and sedated for fatigue/increased work of breathing. CXR
   worse today with bilateral infiltrates.
   - Appreciate ID recommendations
   - continue Meropenem and Vanc (Day 1=[**12-13**]), will discuss with ID
   discontinuing antibiotics
   - Follow pan cultures
   - F/u BAL
   - Discontinued diuresis in setting of low pressures, and autodiuresis
   - [**Month (only) 8**] require sinus drainage-ENT-no further imaging will re-consult as
   needed with nasal saline washes as needed
   - Fevers may represent inflammatory reaction and not actual infection,
   or may be related to transfusion
   -Recheck Amylase/Lipase in AM
   #Transfusion reaction: 15 minutes into transfusion patient became
   hyperthermic to 101.4 from 99.2 and pressures were in 80s-No further
   action needed.
   #Hypotension: Worsened overnight in response to fentanyl.  Then
   continued in AM on propofol-may represent propofol infusion syndrome.
   Could also represent transfusion reaction, though pressures stable
   today and approximately at patient
s baseline  MCVo2, lactate and CK
   wnl, LFT unremarkable.
   -Bolus as needed
   .
   #Anemia- Likely secondary to bone marrow suppression in the setting of
   infection-currently stable
   -transfuse for HCT <21
   -Daily HCT
   #Depression
   -          Restarted Geodon, Prozac
   -          Restart Ritalin
   #Rash-likely related to head and [**Hospital 4286**]
   [**Hospital 427**] nursing care and monitor daily
   FEN: Regular diet, Replete lytes as needed
   Prophy: Heparin SQ, pneumoboots
   Access: PICC
   Code: Full Code
   Communication: with patient
s husband
   Dispo: to the floor today
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 ELECTROLYTE & FLUID DISORDER, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 ALTERATION IN NUTRITION
 PNEUMONIA, OTHER
   ICU Care
   Nutrition:  regular diet
   Glycemic Control:
   Lines:
   PICC Line - [**2178-12-11**] 01:00 PM
   20 Gauge - [**2178-12-14**] 02:23 PM
   Prophylaxis:
   DVT:  Heparin SQ TID, pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  Will likely go to the floor today